US04892868
(b) 3α,7β,12α-Trihydroxy-23-methyl-5β-cholan-24-oic acid
The solution of 3α,7β-diethoxycarbonyl-12α-hydroxy-23-methyl-5β-cholan-24-oic acid, methyl ester (0.6 g; 0.0011 mol) in 20 ml of a water/ethanol mixture (40/60) and 3 g of NaOH was refluxed for 12 hours, then treated with 80 ml of water, acidified with concentrated HCl and extracted with 4×40 ml of CHCl3. The organic solution was washed with NaCl-saturated water and dried on MgSO4. By chromatography on silica gel, under N2 -pressure (eluent: CHCl3), 340 mg of the title compound were obtained. M.p. 151°-153° C. The structure of the compound is fully confirmed by the analytical and spectral data.

reactant | 3α,7β-diethoxycarbonyl-12α-hydroxy-23-methyl-5β-cholan-24-oic acid, methyl ester | 0.0011 mol, 0.6 g | C(C)OC(=O)[C@H]1C[C@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CC(C(=O)OC)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)C(=O)OCC | C32H52O7
reactant | NaOH | 3 g | [OH-].[Na+]
reactant | water | 80 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | water ethanol | 20 ml | O.C(C)O
product | 3α,7β,12α-Trihydroxy-23-methyl-5β-cholan-24-oic acid | 340 mg | O[C@H]1C[C@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CC(C(=O)O)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C25H42O5
